US07645789B2
To a stirred solution (R)-3-(2-tert-butyl-5-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-1H-indol-1-yl)-2-hydroxypropyl-4-methylbenzenesulfonate (3.2 g, 5.0 mmol) in DMF (6 mL) was added sodium azide (2.0 g, 30 mmol). The reaction was heated at 80° C. for 2 h. The mixture was partitioned between 20 mL ethyl acetate and 20 mL water. The layers were separated and the organic layer was evaporated. The residue was purified using column chromatography (0-85% ethyl acetate/hexane) to give (R)—N-(1-(3-azido-2-hydroxypropyl)-2-tert-butyl-1H-indol-5-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-cyclopropanecarboxamide (2.48 g). LC/MS (M+1)=512.5. 1H NMR (400 MHz, CDCl3) δ 7.55 (d, 1H, J=2 Hz), 7.31 (m, 3H), 6.96 (s, 1H), 6.94 (dd, 1H, J=2, 8 Hz), 6.22 (s, 1H), 4.33 (m, 1H), 4.31 (dd, 1H, J=6, 15 Hz), 4.28 (dd, 1H, J=11, 15 Hz), 4.18 (m, 1H), 3.40 (dd, 1H, J=3, 6 Hz), 3.36 (dd, 1H, J=3, 6 Hz), 2.40 (br s, 1H), 1.74 (m, 2H), 1.40 (s, 9H), 1.11 (m, 2H).

reactant | (R)-3-(2-tert-butyl-5-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-1H-indol-1-yl)-2-hydroxypropyl-4-methylbenzenesulfonate | 5.0 mmol, 3.2 g | C(C)(C)(C)C=1N(C2=CC=C(C=C2C1)NC(=O)C1(CC1)C1=CC2=C(OC(O2)(F)F)C=C1)C=1C(=C(C=CC1C)S(=O)(=O)[O-])C[C@@H](C)O
reactant | sodium azide | 30 mmol, 2.0 g | [N-]=[N+]=[N-].[Na+]
reactant | DMF | 6 mL | CN(C)C=O | C3H7NO
product | (R)—N-(1-(3-azido-2-hydroxypropyl)-2-tert-butyl-1H-indol-5-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-cyclopropanecarboxamide | 2.48 g | N(=[N+]=[N-])C[C@@H](CN1C(=CC2=CC(=CC=C12)NC(=O)C1(CC1)C1=CC2=C(OC(O2)(F)F)C=C1)C(C)(C)C)O | C26H27F2N5O4
